US08202858B2
(3-Methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-methanone Hydrochloride
4M HCl solution in dioxan (1 ml) was added to a solution of 4-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperidine-1-carboxylic acid tert-butyl ester from Example E68.4 (71 mg, 0.13 mmol) in methanol (3 ml). The mixture was stirred for 20 h at room temperature then solvents were concentrated in vacuo. The residue was triturated with diethyl ether to yield the title compound (61 mg, 97%).

reactant | HCl | 4M | Cl | ClH
reactant | 4-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C | C32H41N5O4
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
product | (3-Methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-methanone Hydrochloride | 61 mg, 97% | Cl.CN1N=CC=2CN(C3=C(NC12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCC3CCNCC3)C | InChI=1S/C27H33N5O2.ClH/c1-19-16-21(9-10-25(19)34-15-5-6-20-11-13-28-14-12-20)27(33)32-18-22-17-29-31(2)26(22)30-23-7-3-4-8-24(23)32;/h3-4,7-10,16-17,20,28,30H,5-6,11-15,18H2,1-2H3;1H
